US04046909
The cyclohexylsulfamic acid salt of 1-2-butyl-2-iminopyrrolidine (7.99 g.; 0.025 mole) is converted to free base (3.5 g.; 0.025 mole) by adding 2.5 ml. of 50% NaOH to an aqueous slurry of the salt and benzene extraction. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth and 4.19 g. (0.025 mole) of 3-chloro-2-methylphenylisocyanate is added. The reaction mixture is stirred at room temperature for 3 hours and then taken to dryness in vacuo to give an oily residue of 1-(1-n-butyl-2-pyrrolidylidene)-3-(3-chloro-2-methylphenyl)urea which is dissolved in ether and converted to the hydrochloride salt. Recrystallization from methanol-ether yields the product, 1-(1-n-butyl-2-pyrrolidylidene)-3-(3-chloro-2-methylphenyl)urea HCl hydrate, m.p. = 126°-128° C.

reactant | cyclohexylsulfamic acid | C1(CCCCC1)NS(O)(=O)=O | C6H13NO3S
reactant | 1-2-butyl-2-iminopyrrolidine | 0.025 mole, 7.99 g | CC(CC)N1C(CCC1)=N | C8H16N2
reactant | 3-chloro-2-methylphenylisocyanate | 0.025 mole | ClC=1C(=C(C=CC1)N=C=O)C | C8H6ClNO
product | 1-(1-n-butyl-2-pyrrolidylidene)-3-(3-chloro-2-methylphenyl)urea | C(CCC)N1C(CCC1)=NC(=O)NC1=C(C(=CC=C1)Cl)C | C16H22ClN3O
